US04686230
15.3 g (0.124 mol) of 3-methoxy-2-methylpyridine are dissolved in 100 ml of glacial acetic acid, and 40 ml of 30% strength hydrogen peroxide are added in 4 portions at 80° C. in the course of 6 hours. The mixture is stirred for a further 3 hours and then concentrated in vacuo (1.5 kPa), and two 50 ml portions of acetic acid are added, the mixture being concentrated completely after each addition. Following negative detection of percompounds, the mixture is distilled in a bulb tube oven. The fraction which distils at 120° C. (1.5 Pa) is extracted by stirring in a little diethyl ether and the solid is filtered off and dried. 12 g (60% of theory) of 3-methoxy-2-methylpyridine 1-oxide are obtained in the form of colourless crystals of m.p. 72°-78° C.

reactant | 3-methoxy-2-methylpyridine | 0.124 mol, 15.3 g | COC=1C(=NC=CC1)C | C7H9NO
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 3-methoxy-2-methylpyridine 1-oxide | 12 g, 60% | COC=1C(=[N+](C=CC1)[O-])C | C7H9NO2
